Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash 
 
Major Surgical or Invasive Procedure:
Biospy, dermatology ___

 
History of Present Illness:
___ male with a history of anxiety and psoriasis 
presenting as a referral from ___ clinic for linear 
scleroderma of the face.  Patient reports 4d of a ~4cm linear 
atrophic plaque just L of midline extending from hairline down 
onto the forehead. Patient has otherwise been in his USOH other 
than ~4mo of L>R ___ paresthesias/tingling, initially thought 
to be correlated with anxiety, without associated weakness. He 
reports he had a similar episode ___ years ago; he had a full 
neurological workup at the time which was negative, and it 
resolved on its own. No family or personal history of AI or 
other rheumatologic pathology other than psoriasis. Denies 
fevers, chills, cough, SOB, chest pain.  Admission request comes 
from Dermatologist Dr. ___ at ___. He is 
requesting rheum consult and possible Neuro/Ophtho consult as 
well as MRI brain.  
 
-In the ED, initial VS were: 99.1 133/83 48 20 100/RA  
-Exam notable for: aforementioned lesion, as well as sequelae of 
recent ___ surgery at ___. Neuro exam entirely non-focal.  
 
 
On arrival to the floor, patient reports some mild tingling in 
feet but otherwise feeling well.  

REVIEW OF SYSTEMS:  10 point ROS reviewed and negative except as 
per HPI  
 
Past Medical History:
ATYPICAL CHEST PAIN  
 IRRITABLE BOWEL SYNDROME  
 PSORIASIS  
 SEASONAL ALLERGIES  
 TESTOSTERONE DEFICIENCY  
 THORACIC SPINE PAIN  
 BASAL CELL CARCINOMA  
 BACK PAIN  

 
Social History:
___
Family History:
Mother BREAST CANCER  
 Father HYPERGLYCEMIA  
 Sister BREAST CANCER  
 MGM CORONARY ARTERY DISEASE  
 MGF CORONARY ARTERY DISEASE  
 PGM OVARIAN CANCER  
 PGF HEALTHY  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 98.5 120/77 72 18 100/Ra  
 GENERAL: Well appearing, NAD  
 HEENT: Patient with 6cmx2cm vertical patch of erythematous 
raised skin in ___ forehead, nontender. Otherwise AT/NC, 
EOMI, PERRL, anicteric sclera, pink conjunctiva  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, CN ___ intact, strength ___ and sensation intact 
proximally and distally throughout.  
 SKIN: warm and well perfused, no excoriations or lesions other 
than as described above  

DISCHARGE PHYSICAL EXAM:
VS  98.2 PO 115 / 68 70 18 99 
GENERAL: Well appearing, NAD  
HEENT: Patient with 6cmx2cm vertical patch of erythematous 
raised skin in ___ forehead, nontender. 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN ___ intact, strength ___ and sensation intact 
proximally and distally throughout.  
SKIN: warm and well perfused, no excoriations or lesions other 
than as described above 
 
Pertinent Results:
ADMISSION LABS:
___ 07:07PM BLOOD WBC-6.4# RBC-5.17 Hgb-14.8 Hct-44.2 
MCV-86 MCH-28.6 MCHC-33.5 RDW-12.3 RDWSD-38.5 Plt ___
___ 07:07PM BLOOD Neuts-65.9 ___ Monos-6.3 Eos-1.1 
Baso-0.9 Im ___ AbsNeut-4.20 AbsLymp-1.63 AbsMono-0.40 
AbsEos-0.07 AbsBaso-0.06
___ 07:07PM BLOOD Glucose-102* UreaN-14 Creat-1.5* Na-144 
K-4.5 Cl-104 HCO3-22 AnGap-18
___ 07:07PM BLOOD ALT-16 AST-35 LD(LDH)-345* AlkPhos-58 
TotBili-0.4
___ 07:25AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.0
___ 07:07PM BLOOD Albumin-5.0
___ 07:07PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 08:10PM BLOOD ANCA-PND
___ 07:07PM BLOOD ___ CRP-0.8 dsDNA-PND Cntromr-PND
___ 07:07PM BLOOD C3-116 C4-27
___ 07:07PM BLOOD HCV Ab-NEG
___ 07:07PM BLOOD SM ANTIBODY-PND
___ 07:07PM BLOOD SCLERODERMA ANTIBODY-PND
___ 03:09AM BLOOD ANTI-HISTONE ANTIBODY-PND
___ 03:09AM BLOOD RO & ___
___ 03:09AM BLOOD DNA AUTOANTIBODIES, SS-PND

IMAGING:
___ Renal U/S: Normal renal ultrasound.

___ MR brain ___/ and ___:
The ventricles and extra-axial spaces are normal in size. There 
is no evidence  of midline shift, mass effect or hydrocephalus. 
There are no acute infarcts.  There is no evidence of focal 
abnormalities.  The vascular flow voids are  maintained. The 
visualized paranasal sinuses are clear. Following gadolinium  
administration there is no evidence of abnormal parenchymal, 
vascular and 
meningeal enhancement seen. 
  
In the region of for head no significant soft tissue thickening 
is identified.  No evidence of soft tissue defect identified or 
abnormal signal or enhancement  seen within the bony structures. 
 No adjacent intracranial dural or brain 
enhancement is identified. 
  
IMPRESSION:  
No significant abnormalities are seen on MRI of the brain with 
and without 
gadolinium.  No signs of soft tissue thickening, fluid 
collection abnormal 
enhancement or abnormal bony signal identified in the region of 
forehead. 

PATHOLOGY: ___ punch biopsy, PND
 
Brief Hospital Course:
___ male with a history of psoriasis, anxiety presenting 
as a referral from ___ clinic for linear scleroderma of 
the face. 

# Concern for Linear scleroderma: 
Patient presented with concern for scleroderma en coup de sabre 
(LScs), with atrophic lesion in frontoparietal area that 
developed over the course of 5 days without prior known rheum 
history. He also complained of numbness and tingling as well of 
distal lower extremities for weeks. Neurologic exam was 
nonfocal. MR ___/ and ___ showed no significant abnormalities, 
with no signs of soft tissue thickening, fluid collection 
abnormal enhancement or abnormal bony signal identified in the 
region of forehead. Rheumatology was consulted and recommended 
autoimmune panel, pending at discharge, and felt no need for 
acute intervention. Dermatology was consulted and conducted 
punch biopsy the lesion, recommended prednisone burst and 
outpatient follow up within 1 week. Completed work up at 
discharge showed: Pro/cr <0.1, CBC w/ diff unremarkable, CRP 
0.8. 
-Pending work up: ESR, Autoimmune panel: ___, dsDNA, ssDNA, 
Ro/La, anti-Histone Ab, RF, anti centromere, SCL70, anti ___, 
anti U1RNP, complement levels, antiphospholipid Abs, ANCA. HIV, 
hepatitis screen and RPR. 

# ___ on CKD 
Patient with slight elevation of Cr to 1.5 from baseline 1.1-1.3 
on presentation which improved to baseline 1.2 after 1L bolus. 
Renal ultrasound was unremarkable. 

CHRONIC:
# Back pain: continued cyclobenzaprine 
# Anxiety: continued clonazepam 

TRANSITIONAL ISSUES:
====================
[] Please ensure dermatology, rheumatology follow up
[] f/u pending rheumatologic workup
[] f/u pending punch biopsy 
[] Biopsy site stiches to be removed ___
[] Discharged on course of prednisone per dermatology recs. 
Discontinue as indicated based on biopsy results
[] Consider nutritional, further neurological work up of 
paresthesias 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobetasol Propionate 0.05% Soln 1 Appl TP DAILY 
2. ClonazePAM 0.5 mg PO DAILY anxiety 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. coenzyme Q10 unknown  oral unknown 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY Duration: 7 Days  RX *prednisone 
20 mg 2 tablet(s) by mouth daily Disp #*14 Tablet Refills:*0 
2.  coenzyme Q10 100 mg oral Frequency is Unknown  
3.  Clobetasol Propionate 0.05% Soln 1 Appl TP DAILY  
4.  ClonazePAM 0.5 mg PO DAILY anxiety  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Concern for linear scleroderma
___ 
Psoriasis
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
You were referred to the hospital by your outpatient 
dermatologist for work up of your rash. 

WHAT HAPPENED IN THE HOSPITAL?
-You had an MRI of your brain and forehead which was normal. 
This is good news.
-You were seen by rheumatology. You had blood work to test for 
rheumatologic conditions which pending.
-You were seen by dermatology who did a punch biopsy of the 
area. They recommended you start steroids.
-You were dehydrated and your kidney labs were high; they 
returned to your normal after some fluids. You had an ultrasound 
of your kidneys which was normal.

WHAT SHOULD I DO WHEN I GO HOME?
-You were prescribed prednisone, to control inflammation as 
dermatology recommended. You should take this until dermatology 
directs you to stop, or in 7 days which ever comes first.
-See below for wound care recommendations. Your stiches need to 
come out in 2 weeks.
-Follow up with rheumatology, dermatology (can see your 
outpatient dermatologist) in ___ days.
-Follow up with your primary care doctor

___ wish you the best!
-Your Care Team at ___

See below on how to take care of your biopsy site:
 Important Biopsy Site Care:
 Keep the biopsy site dry for 24 hours.  
 Clean biopsy site with soap, water, then pad dry every day for 
2 weeks.  
 Cover with a thin layer of vaseline and perform dressing change 
every day for 2 weeks. 
 
Followup Instructions:
___